US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-pyridin-2-yl-ethyl)-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (250 mg, 0.81 mmol) and 2-pyridin-2-yl-ethylamine (0.97 mL, 8.1 mmol) combined in a microwave vial and heated to 200° C. for 2 hours. The reaction mixture was diluted with water, extracted with ethyl acetate, and the organic layer was dried, filtered, and concentrated. The residue was purified via reverse phase chromatography (Phenomenex Gemini-NX C18 AXIA column acetonitrile in water with trifluoroacetic acid modifier). Fractions containing product were neutralized by combining in saturated sodium bicarbonate and extracting with 3 portions of dichloromethane. The combined organic was dried over magnesium sulfate, filtered and evaporated to yield a light yellow powder (195 mg, 61%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.70 (d, J=6.7 Hz, 1H), 8.49 (s, 1H), 8.42-8.35 (m, 3H), 8.04 (d, J=7.9 Hz, 2H), 7.87 (d, J=7.5 Hz, 1H), 7.70 (d, J=8.0 Hz, 1H), 7.31 (m, 1H), 7.04 (t, J=14.6, 7.4 Hz, 1H), 6.93 (m, 1H), 3.51 (m, 2H), 3.28 (s, 3H), 2.93 (t, J=14.1, 7.0 Hz, 2H). MS=394 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.81 mmol, 250 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 2-pyridin-2-yl-ethylamine | 8.1 mmol, 0.97 mL | N1=C(C=CC=C1)CCN | C7H10N2
solvent | water | O | H2O
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-pyridin-2-yl-ethyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NCCC2=NC=CC=C2 | C20H19N5O2S
